US09079853B2
3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one
To a flame dried flask cooled under argon was added freshly prepared LDA (0.82 mL, 0.48 mmol, 0.38M in anhydrous THF). While stirring at −78° C., 3-bromo-2-methylpyridine (50 μL, 0.48 mmol, purchased from Aldrich) was added. The solution stirred at this temperature for two hours at which point a 1-isopentyl-5-methylindoline-2,3-dione (0.045 grams, 0.19 mmol, 0.4 M in THF) was added. The solution was then warmed to room temperature slowly. Once all of the starting material had been consumed, the reaction was quenched with ammonium chloride (saturated), diluted with ethyl acetate, and the organic layer removed. The aqueous layer was salted out using sodium chloride and washed two more times with ethyl acetate. The combined organic material was dried with sodium sulfate, filtered, and concentrated. Purification was done on preparative thin layer chromatography using hexanes/ethyl acetate (2:1) to afford the desired material. (8% Yield). 1H NMR δ 8.53 (dd, 1H), 7.89 (dd, 1H), 7.17-7.09 (m, 3H), 7.03 (d, 1H), 6.73 (d, 1H), 3.83-57 (m, 2H), 3.52 (d, 1H), 3.34 (d, 1H), 2.30 (s, 3H), 1.65 (m, 1H), 1.54 (m, 2H), 0.96 (dd, 6H). Calculated mass for C20H23BrN2O2 402.09, observed, 425.1 (M+Na).

reactant | LDA | 0.48 mmol, 0.38M, 0.82 mL | [Li+].CC(C)[N-]C(C)C
reactant | 3-bromo-2-methylpyridine | 0.48 mmol, 50 μL | BrC=1C(=NC=CC1)C | C6H6BrN
reactant | 1-isopentyl-5-methylindoline-2,3-dione | 0.19 mmol, 0.4 M, 0.045 grams | C(CC(C)C)N1C(C(C2=CC(=CC=C12)C)=O)=O | C14H17NO2
product | 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one | 8% Yield | BrC=1C(=NC=CC1)CC1(C(N(C2=CC=C(C=C12)C)CCC(C)C)=O)O | C20H23BrN2O2
